US05200111
EXAMPLE 19: SYNTHESIS OF (R,S)-2-(4'-n-OCTYLPHENYL)-5-[4'-(3"-HYDROXY-1"-METHYLBUTOXY)PHENYL]-PYRIMIDINE
0.15 g of 55% sodium hydride was mixed with 3 ml of dimethylformamide. A solution of 1.00 g of 4-[2'-(4"-n-octylphenyl)-5-pyrimidinyl]phenol in 2 ml of dimethylformamide was added dropwise thereto under ice-cooling. After the completion of the addition, the obtained mixture was stirred at room temperature for one hour. Then, a solution of 0.79 g of monotosylate of (R,R)-2,4-pentadediol in 2 ml of dimethylformamide was added dropwise thereto and the mixture was stirred at 80° C. for 1.5 hour. After cooling, the reaction mixture was poured into 100 ml of ice-water and extracted with diethyl ether. After washing with water and desolvating, the residue was purified by silica gel column chromatography with the use of a mixture of ethyl acetate and n-hexane (3:7) as a developing solvent to thereby give 0.76 g of the title compound.

reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | 4-[2'-(4"-n-octylphenyl)-5-pyrimidinyl]phenol | 1.00 g | C(CCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)O | C24H28N2O
reactant | monotosylate | 0.79 g | CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (R,S)-2-(4'-n-OCTYLPHENYL)-5-[4'-(3"-HYDROXY-1"-METHYLBUTOXY)PHENYL]-PYRIMIDINE | 0.76 g | C(CCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)O[C@@H](C[C@H](C)O)C | C29H38N2O2
